US05821240
(1) 8-Dimethylamino-1,4-dioxaspiro[4.5]decane
Prepared from 1,4-dioxaspiro[4.5]decan-8-one and dimethylamine. Pale brown oil, Rf : 0.28 (silica gel; methylene chloroide/methanol/concentrated ammonia=9:1:0.1)

reactant | 1,4-dioxaspiro[4.5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | CO | CH4O
product | 8-Dimethylamino-1,4-dioxaspiro[4.5]decane | CN(C1CCC2(OCCO2)CC1)C | C10H19NO2
